US06680313B2
The procedure of Example 1a) was repeated, except that 752 mg of 4-nitrobenzyl (3R,5R,6S)-6-((1R)-1-hydroxyethyl)-2-oxo-1-carbapenam-3-carboxylate and 1.433 g of 7-(2-t-butyldimethylsilyloxyethyl)thio-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole were used as the starting compounds. Thus, 703 mg of 4-nitrobenzyl (5R,6S)-2-[7-(2-t-butyldimethylsilyloxyethyl)thioimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-carbapen-2-em-3-carboxylate was prepared.

reactant | 4-nitrobenzyl (3R,5R,6S)-6-((1R)-1-hydroxyethyl)-2-oxo-1-carbapenam-3-carboxylate | 752 mg | O[C@H](C)[C@@H]1[C@@H]2N([C@H](C(C2)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C16H16N2O7
reactant | 7-(2-t-butyldimethylsilyloxyethyl)thio-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole | 1.433 g | [Si](C)(C)(C(C)(C)C)OCCSC=1N=CN2C1SC(=C2)[Sn](CCCC)(CCCC)CCCC
product | 4-nitrobenzyl (5R,6S)-2-[7-(2-t-butyldimethylsilyloxyethyl)thioimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-carbapen-2-em-3-carboxylate | 703 mg | [Si](C)(C)(C(C)(C)C)OCCSC=1N=CN2C1SC(=C2)C=2C[C@H]1N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]1[C@@H](C)O)=O | C29H36N4O7S2Si
